Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]=[C:4]=[C:5]1[O:6][C:7]1([H:8])[H:9]>>[H:1][O:2][C:3]#[C:4][C:5](=[O:6])[C:7]([H:8])[H:9],-1.1037714536
[C:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:1]([C:2]([H:6])([H:7])[H:8])[H:4].[C:3](#[C:5])[C:9]([H:10])([H:11])[O:12][H:13],4.96848231374
[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9],-7.23634470891
[H:4].[O:1]=[C:2]([H:3])[C:5]([C:6](=[O:7])[H:8])=[C:9]([H:10])[H:11]>>[O:1][C:2]([H:3])([H:4])[C:5]([C:6](=[O:7])[H:8])=[C:9]([H:10])[H:11],-1.1445958983
[C:1]#[C:2].[O:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-5.23483580542
[H:1][C:2][O:3]/[C:4](=[C:5](/[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])[O:7][H:8].[H:1][C:2][O:3][C:4][C:9]([H:10])([H:11])[H:12],6.283863631240001
[H:15].[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-5.44311676023
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1],3.98128829365
[H:1][C:2]([H:3])=[C:4]1[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4](=[C:5]=[C:6]([H:7])[H:8])[C:12]([C:9]([H:10])[H:11])([H:13])[H:14],2.68575658436
[C:4]([H:5])=[C:6]([H:7])[H:8].[H:1][C:2]([H:3])=[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-1.57814273343
[H:1][C:2]#[C:3][C:4](=[C:5][H:6])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:7]>>[H:1][C:2]#[C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-5.10319739463
[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.87944949977
[C:1]#[C:2][C:3](=[C:4][H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2].[C:3](#[C:4][H:5])[O:6][C:7]([H:8])([H:9])[H:10],3.47230555539
[C:1]#[C:2][O:3][H:4].[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-3.59779750645
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]1([H:7])[C:8]([H:9])=[C:10]1[H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])=[C:10][H:11],1.86941697066
[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]#[C:8][H:9]>>[C:3]([H:4])#[C:5][O:6][C:7]#[C:8][H:9].[H:1][C:2],4.43162432193
[C:1].[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-7.102335330139999
[H:1][C:2]=[C:3]([H:4])[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])[O:5][O:6],2.98476010374
[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10]>>[C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10].[H:1][O:2][C:3],5.221088260809999
[C:3](#[C:6][O:9][H:10])[H:7].[H:1][C:2]([O:4][H:5])[H:8]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10],-1.5262329232299998
[C:1]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[C:2]#[C:3]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-4.62338430951
[C:1]#[C:2][C:3]([O:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1][C:2]#[C:3][C:7]([H:8])([H:9])[H:10].[O:4]=[C:5][H:6],0.362755978209
[H:8].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:9][C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-1.5215600154299995
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8](=[O:9])[H:10]>>[C:4]([H:5])=[C:6]([H:7])[C:8](=[O:9])[H:10].[O:1]=[C:2][H:3],4.32249101226
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1].[O:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],1.38878592956
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[O:10][H:11]>>[C:5]([H:6])#[C:7][C:8]([H:9])[O:10][H:11].[H:1][C:2]#[C:3][H:4],1.1105686254
[H:1][O:2][C:3]/[C:4]([H:5])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-1.55530891062
[C:3]=[C:4]([H:5])[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12],-6.20810227292
[H:6].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-1.67695824054
